US09447078B2
Preparation of (E)-3-amino-1-(4-(2-cyclohexylvinyl)furan-2-yl)propan-1-ol
LiAlH4 reduction of (E)-3-(4-(2-cyclohexylvinyl)furan-2-yl)-3-hydroxypropanenitrile following the method used in Example 1 gave after flash chromatography purification (2%-20% 7N NH3/MeOH—CH2Cl2 gradient) Example 22 as a colorless oil. Yield (0.07 g, 53%); 1H NMR (400 MHz, CD3OD) δ 7.34 (s, 1H), 6.41 (s, 1H), 6.17 (d, J=17.2 Hz, 1H), 5.88 (dd, J=7.3, 16.1 Hz, 1H), 4.67 (t, J=6.9 Hz, 1H), 2.67-2.80 (m, 2H), 2.00-2.10 9m, 1H), 1.90-2.00 (m, 2H), 1.63-1.81 (m, 5H), 1.10-1.40 (m, 5H); RP-HPLC tR=10.42 min; ESI-MS m/z 232.2 [M−H2O+H]+.

reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (E)-3-(4-(2-cyclohexylvinyl)furan-2-yl)-3-hydroxypropanenitrile | C1(CCCCC1)/C=C/C=1C=C(OC1)C(CC#N)O | C15H19NO2
reactant | NH3 MeOH CH2Cl2 | 7N | N.CO.C(Cl)Cl
product | (E)-3-amino-1-(4-(2-cyclohexylvinyl)furan-2-yl)propan-1-ol | NCCC(O)C=1OC=C(C1)\C=C\C1CCCCC1 | C15H23NO2
